US08314100B2
1-[(6-Fluoro-2-methoxyquinoxalin-3-yl)aminocarbonyl]-4-(2-methoxyphenyl)piperazine (Compound 2)
Ethyl N-(6-fluoro-2-methoxyquinoxalin-3-yl)carbamate and 1-(2-methoxyphenyl)piperazine were reacted by the same way with the example 1 to obtain the titled compound (yield, 84%). 1H NMR (200 MHz, CDCl3): δ 3.15 (s, 4H), 3.79-3.87 (m, 6H), 4.11 (s, 4H), 6.86-7.02 (m, 4H), 7.18-7.22 (m, 1H), 7.39-7.50 (m, 1H), 7.65-7.72 (m, 1H).

reactant | Ethyl N-(6-fluoro-2-methoxyquinoxalin-3-yl)carbamate | FC=1C=C2N=C(C(=NC2=CC1)OC)NC(OCC)=O | C12H12FN3O3
reactant | 1-(2-methoxyphenyl)piperazine | COC1=C(C=CC=C1)N1CCNCC1 | C11H16N2O
product | 1-[(6-Fluoro-2-methoxyquinoxalin-3-yl)aminocarbonyl]-4-(2-methoxyphenyl)piperazine | 84% | FC=1C=C2N=C(C(=NC2=CC1)OC)NC(=O)N1CCN(CC1)C1=C(C=CC=C1)OC | C21H22FN5O3
